US06426345B1
The mixture of 2-methyl-4-(3-biphenylyl)-3-oxo-3,4-dihydropyrido[ 2,3-b]pyrazine (17 g), N-bromosuccinimide (10.6 g) and 2,2′-azobis(4-methoxy-2,4-dimethylvaleronitrile (167 mg) in benzene (200 ml) was refluxed for 2 hours. The mixture was washed with water and evaporated. The crude products was purified by column chromatography to obtain 2-bromomethyl-4-(3-biphenylyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (5 g).

reactant | 2-methyl-4-(3-biphenylyl)-3-oxo-3,4-dihydropyrido[ 2,3-b]pyrazine | 17 g | CC1=NC2=C(N(C1=O)C=1C=C(C=CC1)C1=CC=CC=C1)N=CC=C2 | C20H15N3O
reactant | N-bromosuccinimide | 10.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
catalyst | 4-methoxy-2,4-dimethylvaleronitrile | 167 mg | COC(CC(C#N)C)(C)C | C8H15NO
product | 2-bromomethyl-4-(3-biphenylyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 5 g | BrCC1=NC2=C(N(C1=O)C=1C=C(C=CC1)C1=CC=CC=C1)N=CC=C2 | C20H14BrN3O
